US03958003
120 g of benzalmalonic acid diethyl ester, 33.6 g of potassium cyanide, 1600 cc of ethanol and 160 cc of water are stirred at a bath temperature of 60° for 12 to 14 hours. The reaction mixture is then cooled with ice water, the potassium bicarbonate which crystallizes is filtered off, the filtrate is made neutral with about 15 cc of 1 N hydrochloric acid, air is passed through the solution with a water jet vacuum pump for 1 hour, the solvent is distilled off on a rotary evaporator, 100 cc of water are added to the oily residue, and extraction is effected 6 times with 250 cc amounts of ether. The 3-cyano-3-phenyl-propionic acid ethyl ester, obtained after distilling off the ether, is purified by vacuum distillation. B.P. 125°-130°/0.15 mm Hg.

reactant | benzalmalonic acid diethyl ester | 120 g | C(C)OC(C(C(=O)OCC)=CC1=CC=CC=C1)=O | C14H16O4
reactant | potassium cyanide | 33.6 g | [C-]#N.[K+]
reactant | ethanol | 1600 cc | C(C)O | C2H6O
solvent | water | 160 cc | O | H2O
product | 3-cyano-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C#N)=O | C12H13NO2
